### PR TITLE
[Merged by Bors] - feat(Computability): regular languages are closed under reversal

### PR DESCRIPTION
**Pull request by lambda-fairy**
This PR proves that regular languages are closed under reversal.

It works by reversing the transitions in the NFA, and proving that the resulting automaton matches the reversed language. The argument proceeds by induction on the input word, ensuring that, at each character, the state sets for the forward and reverse automaton correspond to each other.

I also clean up the existing NFA module, which includes making the `M` argument implicit by default. I can revert that if it's controversial.

Thank you @Rob23oba for their help with the induction proof.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/NFA.lean [hunk 1]
```diff
@@ -143,3 +154,60 @@ theorem toNFA_correct (M : DFA α σ) : M.toNFA.accepts = M.accepts := by
...
+namespace Language
+
+theorem IsRegular.reverse {L : Language α} (h : L.IsRegular) : L.reverse.IsRegular :=
+  have ⟨σ, x, M, hM⟩ := h
+  ⟨_, inferInstance, M.toNFA.reverse.toDFA, by ext x; simp [hM]⟩
+
+/-- Regular languages are closed under reversal. -/
+@[simp]
+theorem isRegular_reverse_iff {L : Language α} : L.reverse.IsRegular ↔ L.IsRegular :=
+  ⟨fun h ↦ L.reverse_reverse ▸ h.reverse, .reverse⟩
```
Comment (madvorak) [inline Mathlib/Computability/NFA.lean:211]: Can you remove `h` please?

File: Mathlib/Computability/NFA.lean [hunk 2]
```diff
@@ -143,3 +154,60 @@ theorem toNFA_correct (M : DFA α σ) : M.toNFA.accepts = M.accepts := by
...
+theorem mem_accepts_reverse {x : List α} : x ∈ M.reverse.accepts ↔ x.reverse ∈ M.accepts := by
+  simp [mem_accepts, ← Set.not_disjoint_iff, not_iff_not, disjoint_evalFrom_reverse_iff]
+
+end NFA
+
+namespace Language
+
+theorem IsRegular.reverse {L : Language α} (h : L.IsRegular) : L.reverse.IsRegular :=
+  have ⟨σ, x, M, hM⟩ := h
+  ⟨_, inferInstance, M.toNFA.reverse.toDFA, by ext x; simp [hM]⟩
```
Comment (madvorak) [inline Mathlib/Computability/NFA.lean:206]: I slightly prefer `x` to be removed.

**Review by madvorak — APPROVED** [review]

File: Mathlib/Computability/NFA.lean (hunk 1 above)
Comment (lambda-fairy) [reply Mathlib/Computability/NFA.lean:211]: How would you write it?

If I remove the parameter, I get a type error.

```lean
/-- Regular languages are closed under reversal. -/
@[simp]
theorem isRegular_reverse_iff {L : Language α} : L.reverse.IsRegular ↔ L.IsRegular :=
  ⟨L.reverse_reverse ▸ IsRegular.reverse, .reverse⟩
/-
type mismatch
  IsRegular.reverse
has type
  IsRegular ?m.22193 → (reverse ?m.22193).IsRegular : Prop
but is expected to have type
  L.reverse.reverse.reverse.IsRegular → L.reverse.reverse.IsRegular : Prop
-/
```

File: Mathlib/Computability/NFA.lean (hunk 2 above)
Comment (lambda-fairy) [reply Mathlib/Computability/NFA.lean]: I'm not sure which `x` you meant, so I removed both 😄

File: Mathlib/Computability/NFA.lean (hunk 1 above)
Comment (LeoDog896) [reply Mathlib/Computability/NFA.lean:211]: Do you mean `⟨(L.reverse_reverse ▸ ·.reverse), .reverse⟩`?

**Comment by lambda-fairy** [comment]
I'm not at my computer right now, but if that works, feel free to push it
to the branch.

File: Mathlib/Computability/NFA.lean (hunk 1 above)
Comment (lambda-fairy) [reply Mathlib/Computability/NFA.lean]: Sure I'll do that, thanks!

**Review by madvorak — APPROVED** [review]

**Comment by meithecatte** [comment]
Does it make sense to have `M` be implicit if the theorems are already in the `NFA` namespace?

**Comment by meithecatte** [comment]
Relevant Zulip discussion: [#mathlib4 > Regular languages: the review queue](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Regular.20languages.3A.20the.20review.20queue/with/514669532)

File: Mathlib/Computability/NFA.lean [hunk 3]
```diff
@@ -146,3 +157,60 @@ theorem toNFA_correct (M : DFA α σ) : M.toNFA.accepts = M.accepts := by
...
+
+@[simp]
+theorem mem_accepts_reverse {x : List α} : x ∈ M.reverse.accepts ↔ x.reverse ∈ M.accepts := by
+  simp [mem_accepts, ← Set.not_disjoint_iff, not_iff_not, disjoint_evalFrom_reverse_iff]
+
+end NFA
+
+namespace Language
+
+theorem IsRegular.reverse {L : Language α} (h : L.IsRegular) : L.reverse.IsRegular :=
```
Comment (urkud) [inline Mathlib/Computability/NFA.lean:207]:
```suggestion
protected theorem IsRegular.reverse {L : Language α} (h : L.IsRegular) : L.reverse.IsRegular :=
```

File: Mathlib/Computability/NFA.lean [hunk 4]
```diff
@@ -146,3 +157,60 @@ theorem toNFA_correct (M : DFA α σ) : M.toNFA.accepts = M.accepts := by
...
+  have ⟨σ, _, M, hM⟩ := h
+  ⟨_, inferInstance, M.toNFA.reverse.toDFA, by ext; simp [hM]⟩
+
+/-- Regular languages are closed under reversal. -/
+@[simp]
+theorem isRegular_reverse_iff {L : Language α} : L.reverse.IsRegular ↔ L.IsRegular :=
+  ⟨(L.reverse_reverse ▸ ·.reverse), .reverse⟩
```
Comment (urkud) [inline Mathlib/Computability/NFA.lean:214]: Please add protected alises `Language.IsRegular.reverse` and `Language.IsRegular.of_inverse`.

File: Mathlib/Computability/NFA.lean (hunk 3 above)
Comment (lambda-fairy) [reply Mathlib/Computability/NFA.lean]: Done, thanks!

**Comment by lambda-fairy** [comment]
> Does it make sense to have `M` be implicit if the theorems are already in the `NFA` namespace?

I'm not sure. IIRC, I was following @YaelDillies' suggestions. I think they were writing a style guide on what to make implicit, but I don't know if it's ready yet.

**Comment by urkud** [comment]
Thanks! 
bors merge
